US06683090B1
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(3-phenylpropynamide)
Prepared as a free base by a method analogous to that described in Example 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and 3-phenylpropynoic acid; MS (ES+) 255 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | 3-phenylpropynoic acid | C1(=CC=CC=C1)C#CC(=O)O | C9H6O2
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(3-phenylpropynamide) | N12C[C@@H](C(CC1)CC2)NC(C#CC2=CC=CC=C2)=O | C16H18N2O
